US05859014
A mixture of 1-benzyl-3-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione (1 g, 3.41 mmol), prepared as in Example 19, 10% palladium on carbon (1 g) and 0.1M ammonium formate/methanol (340 mL) was heated 3 hours at reflux under argon. The reaction mixture was allowed to cool to 25° C., then filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane-ethyl acetate (1:1) to give 3-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione (0.52 g, 2.57 mmol), m.p. 117°-121° C.

reactant | 1-benzyl-3-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | 3.41 mmol, 1 g | C(C1=CC=CC=C1)N1C(N(C(C(=C1)C)=O)CCCCl)=O | C15H17ClN2O2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | ammonium formate methanol | 0.1M, 340 mL | C(=O)[O-].[NH4+].CO
product | 3-(3-chloropropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | 2.57 mmol, 0.52 g | ClCCCN1C(NC=C(C1=O)C)=O | C8H11ClN2O2
